US07897607B2
Methyl 3-(2-chloro-6-fluorophenyl)-3-oxopropionate
To 7.4 g (77.7 mmol) of magnesium chloride and 9.02 g (116.1 mmol) of methyl acetoacetate was added 30 mL acetonitrile. The mixture was cooled in an ice bath and 12.6 mL (155.4 mmol) of pyridine was slowly added while keeping the temperature below 5° C. The reaction was removed from the ice bath and was stirred for 30 min. at room temperature. A solution of 15.0 g (77.7 mmol) 2-chloro-6-fluorobenzoyl chloride in 20 mL toluene was added to the reaction and the mixture was subsequently refluxed for four hours. The reaction was then cooled to room temperature and carefully treated with 6.5 mL (98.1 mmol) of concentrated sulfuric acid. The reaction was diluted with water and the layers were separated. The aqueous layer was extracted with dichloromethane and the combined organic layers were dried over sodium sulfate and concentrated to a residue. The residue was purified by flash chromatography eluting with 15% ethyl acetate/hexanes mixture to give 14.0 g (78%) of the title compound as a reddish-pink oil.

reactant | magnesium chloride | 77.7 mmol, 7.4 g | [Cl-].[Mg+2].[Cl-]
reactant | methyl acetoacetate | 116.1 mmol, 9.02 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | pyridine | 155.4 mmol, 12.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-6-fluorobenzoyl chloride | 77.7 mmol, 15.0 g | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | sulfuric acid | 98.1 mmol, 6.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | Methyl 3-(2-chloro-6-fluorophenyl)-3-oxopropionate | 14.0 g, 78% | ClC1=C(C(=CC=C1)F)C(CC(=O)OC)=O | C10H8ClFO3
